US07687491B2
(11g) Methyl 1-({5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-4-methyl-2-thienyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1f) using {5-[5-(3-fluoro-4-phenoxyphenyl]-1,2,4-oxadiazol-3-yl)-4-methyl-2-thienyl}methanol (0.21 g, 0.55 mmol) that was obtained in Example 11 (11f), carbon tetrabromide (0.22 g, 0.66 mmol), triphenylphosphine (0.17 g, 0.66 mmol), methyl 3-azetidinecarboxylate hydrochloride (0.13 g, 0.83 mmol), and N,N-diisopropylethylamine (0.30 mL, 1.7 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography using a mixed solvent of ethyl acetate and hexane (5:5) to afford the title compound (0.23 g) in a yield of 86% as a colourless oily product.

reactant | {5-[5-(3-fluoro-4-phenoxyphenyl]-1,2,4-oxadiazol-3-yl)-4-methyl-2-thienyl}methanol | 0.55 mmol, 0.21 g | FC=1C=C(C=CC1OC1=CC=CC=C1)C1=NC(=NO1)C1=C(C=C(S1)CO)C | C20H15FN2O3S
reactant | carbon tetrabromide | 0.66 mmol, 0.22 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.66 mmol, 0.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.83 mmol, 0.13 g | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.7 mmol, 0.30 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-4-methyl-2-thienyl}methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1OC1=CC=CC=C1)C1=NC(=NO1)C1=C(C=C(S1)CN1CC(C1)C(=O)OC)C | C25H22FN3O4S
